Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:56AM BLOOD WBC-3.3* RBC-4.15 Hgb-12.2 Hct-37.1 
MCV-89 MCH-29.4 MCHC-32.9 RDW-14.2 RDWSD-46.2 Plt Ct-94*
___ 11:56AM BLOOD Neuts-68.5 Lymphs-15.9* Monos-11.3 
Eos-3.4 Baso-0.6 Im ___ AbsNeut-2.25 AbsLymp-0.52* 
AbsMono-0.37 AbsEos-0.11 AbsBaso-0.02
___ 01:07PM BLOOD ___ PTT-42.0* ___
___ 11:56AM BLOOD Glucose-232* UreaN-9 Creat-0.7 Na-141 
K-4.2 Cl-105 HCO3-22 AnGap-14
___ 11:56AM BLOOD ALT-30 AST-65* AlkPhos-379* TotBili-1.7*
___ 11:56AM BLOOD Albumin-4.0
___ 01:06PM BLOOD Lactate-1.9

DISCHARGE LABS:
===============
___ 07:16AM BLOOD WBC-4.0 RBC-4.13 Hgb-12.4 Hct-37.6 MCV-91 
MCH-30.0 MCHC-33.0 RDW-14.3 RDWSD-47.3* Plt ___
___ 07:16AM BLOOD ___ PTT-42.3* ___
___ 07:16AM BLOOD Glucose-140* UreaN-14 Creat-1.0 Na-138 
K-4.1 Cl-101 HCO3-24 AnGap-13
___ 07:16AM BLOOD ALT-28 AST-54* AlkPhos-307* TotBili-1.9*

IMAGING:
========
Abdominal doppler ___:
IMPRESSION:  
Patent hepatic vasculature with slow flow through the portal 
system. 
Coarsened and nodular liver parenchyma without evidence of focal 
mass. 
Apparent 1.8 x 1.3 x 1.8 cm focal lesion is seen within the 
pancreatic body.  
Recommend MRCP for futher evaluation. 

CXR ___:
IMPRESSION:  
No acute cardiopulmonary abnormality. 

MICROBIOLOGY:
=============
Blood culture ___: No growth
Urine culture ___: No growth
 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY:
=======================
Ms ___ is a ___ year old woman with NASH cirrhosis (c/b 
varices, SBP), HTN, DM who presents with confusion and tremor 
likely due to hepatic encephalopathy. She was started on 
lactulose and rifaximin and had rapid improvement in symptoms. 
The remainder of her infectious work-up returned negative. She 
was discharged on lactulose and rixamin with ___ with her 
primary gastroenterologist and liver ___ here. 

TRANSITIONAL ISSUES:
====================
[ ] NEW/CHANGED/STOPPED MEDICATIONS
- Started lactulose 30mL PO TID titrate ___ bowel movements 
daily
- Started rifaximin 550mg PO BID
- Held home losartan 50mg PO QD given she has remained 
normotensive off of this

[ ] RUQUS with 1.8 x 1.3 x 1.8 cm focal lesion seen within the 
pancreatic body on RUQUS. Recommend MRCP for further evaluation. 


[ ] ___ blood pressure at PCP ___. If hypertensive 
can consider re-starting losartan as indicated

ACTIVE ISSUES
=============
# Hepatic encephalopathy
Presenting with confusion and tremors, suspect hepatic 
encephalopathy. No clear infectious trigger (no ascites for 
paracentesis seen on RUQUS and on cipro ppx, urinalysis, CXR, 
and blood cultures without evidence of infection). RUQUS without 
evidence of portal vein thrombosis. She did not previously have 
a history of hepatic encephalopathy, and was started on PO 
lactulose in the ED Q2H, which was downtitrated to TID given 
marked improvement in mental status. She was also started on 
rifaximin. 

# Pancreatic body mass
Apparent 1.8 x 1.3 x 1.8 cm focal lesion is seen within the 
pancreatic body on RUQUS. Recommend MRCP for further evaluation 
as an outpatient. 

# ___ cirrhosis c/b esophageal varices, SBP
Admission MELD 10. 
- Volume: continue home furosemide and spironolactone
- Infection: continue cipro for SBP ppx
- Bleeding: grade 2 EV on EGD ___ without high risk 
stigmata. Nadolol has been held since last DC, restarted this 
admission
- Encephalopathy: as above
- Nutrition: low sodium diet

# HTN - Held home losartan given she has remained normotensive 
off of this

# T2DM - Held home metformin, HISS in house

# CODE: Presumed FULL
# CONTACT: ___ 
 Relationship: daughter Phone: ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Furosemide 40 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Nadolol 20 mg PO DAILY 
4. Spironolactone 100 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 
7. TraZODone 50 mg PO QHS:PRN sleep 
8. MetFORMIN (Glucophage) 250 mg PO BID 
9. Ciprofloxacin HCl 500 mg PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID  
2.  rifAXIMin 550 mg PO BID  
3.  Atorvastatin 10 mg PO QPM  
4.  Ciprofloxacin HCl 500 mg PO DAILY  
5.  Furosemide 40 mg PO DAILY  
6.  MetFORMIN (Glucophage) 250 mg PO BID  
7.  Nadolol 20 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Spironolactone 100 mg PO DAILY  
10.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Hepatic encephalopathy
Pancreatic body mass
Nonalcoholic steatohepatitis cirrhosis

SECONDARY DIAGNOSIS:
====================
Hypertension
Type 2 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were confused and 
had tremors.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- Yo received a new medication called lactulose that helped 
improve your confusion and tremors.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Please call your doctor if you feel confused again
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team

 
Followup Instructions:
___